US07795236B2
4-(3-Bromophenyl)butyronitrile
3-(3-Bromophenyl)propane-1-ol (0.59 g), triethylamine (0.57 mL) and 4-dimethylaminopyridine (0.03 g) were dissolved in dichloromethane (6.8 mL), p-toluenesulfonyl chloride (0.62 g) was added, and the resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was partitioned between ethyl acetate (35 mL) and 10% aqueous citric acid (10 mL) The organic layer was washed with brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in dimethylsulfoxide (9.1 mL), sodium cyanide (0.17 g) was added, and the resulting mixture was stirred at 50° C. for 24 hours. The reaction mixture was partitioned between ethyl acetate (55 mL) and water (30 mL) The organic layer was washed with brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.59 g).

reactant | 3-(3-Bromophenyl)propane-1-ol | 0.59 g | BrC=1C=C(C=CC1)CCCO | C9H11BrO
reactant | triethylamine | 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.62 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6.8 mL | ClCCl | CH2Cl2
product | 4-(3-Bromophenyl)butyronitrile | 0.59 g | BrC=1C=C(C=CC1)CCCC#N | C10H10BrN
